Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain, inferior STEMI
 
Major Surgical or Invasive Procedure:
Cardiac cath with ___ 1 to mid RCA ___
 
History of Present Illness:
___ y/o man with no cardiac hx presenting with chest pain after 
shoveling snow found to have inferior STEMI. Patient was feeling 
nauseated at work earlier today but thought nothing of it. Went 
home and shoveled snow for approx 20 minutes then felt chest 
pressure and shortness of breath. Some nausea and palpitations 
as well. Patient has experienced similar feelings with exertion 
recently so he thought he would rest and it would similarly get 
better but the feelings persisted. His wife did give him a baby 
aspirin but he took nothing else. After about an hour of 
persistent symptoms patient agreed to go to the emergency room.

In the ED, patient found to have inferior STEMI and brought to 
the cath lab. Pretreated with Atropine, aspirin, plavix. Found 
to have completely occluded mid distal RCA.  Thrombus aspiration 
with clot removed and recannulized nicely. ___ 1 placed. On 
integrellin x 12 hours. Also with 40-50% in distal RCA, LCx and 
diag with <50% disease. 
 
Patient arrives to the floor symptom free. He denies current 
CP/SOB/N/V/palpitations.

REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for absence of paroxysmal 
nocturnal dyspnea, orthopnea, syncope or presyncope.  

Denies any prior history of stroke, TIA, deep venous thrombosis, 
pulmonary embolism, bleeding at the time of surgery, myalgias, 
joint pains, cough, hemoptysis, black stools or red stools. 
Denies recent fevers, chills or rigors. 
Denies exertional buttock or calf pain. All of the other review 
of systems were negative.  

 
Past Medical History:
Anxiety
BPH 
Reports history of borderline high cholesterol not on treatment
 
Social History:
___
Family History:
Mother with CABG in ___, brother with CABG in early ___. 
 
Physical Exam:
Admission Physical Exam:
==================
Afebrile, vital signs stable (post-cath)
Gen: NAD, appears stated age
HEENT:  NCAT, PERRL, EOMI, MMM, oropharynx clear
NECK: Supple, no JVD, no HJR
CV: ___ regular rhythm, no appreciable m/g/r
LUNGS: CTAB
ABD: Soft, NT, ND
EXT: no edema, right TR band
PULSES:  2+ dp/pt and radial b/l
SKIN: WWP
NEURO: AAOx3, moving all extremities, light touch sensation 
intact throughout

Discharge Physical Exam:
=================
Gen: NAD, sitting in chair, pleasant and chatty
HEENT:  ___, sclera anicteric
NECK: Supple, no JVD
CV: RRR, no murmurs appreciated
LUNGS: CTAB
ABD: Soft, NT, ND
EXT: no edema, WPP
PULSES:  2+ dp/pt and radial b/l
SKIN: WWP, no rashes
NEURO: AAOx3, moving all extremities, speech is clear
 
Pertinent Results:
Admission Labs:
___ 07:05PM BLOOD WBC-6.0 RBC-3.94* Hgb-12.2* Hct-35.6* 
MCV-90 MCH-31.1 MCHC-34.3 RDW-13.6 Plt ___
___ 07:05PM BLOOD ___ PTT-26.6 ___
___ 07:05PM BLOOD UreaN-20 Creat-1.1
___ 02:06AM BLOOD Glucose-109* UreaN-16 Creat-0.8 Na-137 
K-3.8 Cl-105 HCO3-22 AnGap-14
___ 02:06AM BLOOD Calcium-8.4 Phos-3.5 Mg-1.9 Cholest-PND
___ 07:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Pertinent Labs:
___ 07:05PM BLOOD cTropnT-<0.01
___ 02:06AM BLOOD CK-MB-303* MB Indx-8.0* cTropnT-8.71*
___ 02:06AM BLOOD CK(CPK)-3770*
___ 10:15AM BLOOD CK-MB-239* MB Indx-8.2* cTropnT-7.98*
___ 10:15AM BLOOD CK(CPK)-2900*
___ 02:06AM BLOOD %HbA1c-5.6 eAG-114
___ 02:06AM BLOOD Triglyc-92 HDL-43 CHOL/HD-3.7 LDLcalc-100

Discharge Labs:
___ 09:00AM BLOOD WBC-5.7 RBC-3.79* Hgb-11.7* Hct-34.1* 
MCV-90 MCH-30.8 MCHC-34.2 RDW-14.0 Plt ___
___ 09:00AM BLOOD Glucose-138* UreaN-16 Creat-1.0 Na-139 
K-3.9 Cl-104 HCO3-25 AnGap-14
___ 09:00AM BLOOD Calcium-8.7 Phos-3.0 Mg-1.8

Imaging/Reports:

Cardiac Cath ___:
RCA with total occlusion distally before PDA. THe lesion was 
crossed with Choice ___, predilated with 2.0 balloon. 
Thrombectomy was done follwed by stenting with 3.25 mm DES and 
post dilated to 3.5 with 0% residual and normal flow.

Echo ___:
Conclusions
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy with normal cavity size. There is mild 
regional left ventricular systolic dysfunction with 
inferior/inferolateral akinesis. The remaining segments contract 
normally (LVEF = 40%). Right ventricular chamber size is normal 
with borderline normal free wall function. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) are mildly thickened but aortic 
stenosis is not present. Trace aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. An eccentric, posteriorly-directed jet of mild 
(1+) mitral regurgitation is seen. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion.

IMPRESSION: Mild regional biventricular systolic dysfunction, 
c/w CAD. Mild ischemic mitral regurgitation. Mild pulmonary 
hypertension. 

CXR ___:
Lungs clear.  Heart size normal.  Mediastinal and hilar 
silhouettes and 
pleural surfaces unremarkable. 

Micro:
None
 
Brief Hospital Course:
___ y/o M with no cardiac hx presenting with chest pain after 
shoveling snow found to have inferior STEMI. Received DES to 
mid-distal RCA. 

# ACUTE CORONARY SYNDROME:  No prior cardiac history. 
Nausea/chest pain in the setting of shoveling snow, found to 
have inferior STEMI, received DES to mid-distal RCA. . The 
patient is a Killip Class I indicating 6% mortality based on an 
updated study in JAMA performed at ___ and ___ 
___ published in ___. ECHO on ___ showed mild regional left 
ventricular systolic dysfunction with inferior/inferolateral 
akinesia, and remaining segments contract normally (LVEF = 40%) 
. Started on Aspirin 81mg daily, Clopidogrel 75mg daily, 
Atorvastatin 80mg Daily, Metoprolol Succinate 12.5 mg daily, and 
SL Nitroglycerin PRN.   He has follow-up in place with Dr. ___ 
on ___. 

# Bradycardia: Resolved. Patient had RCA infarct which 
predisposes for bradyarrhytmia, pre-treated with atropine.

# Anxiety: continued on home dose effexor. 

# BPH: continued on home dose tamsulosin. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tamsulosin 0.4 mg PO QHS 
2. Venlafaxine 37.5 mg PO BID 

 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
2. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3
3. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*11
4. Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
daily Disp #*15 Tablet Refills:*3
5. Tamsulosin 0.4 mg PO QHS 
6. Venlafaxine 37.5 mg PO BID 
7. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain Duration: 3 
Doses 
call cards or 911 if having chest pain 
RX *nitroglycerin [Nitrostat] 0.4 mg 1 tablet(s) sublingually 
every 5 minutes x3 Disp #*90 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
inferior STEMI s/p DES to the RCA
Coronary artery disease
BPH

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with a heart attack, and taken emergently to 
the cardiac catheterization lab where a blockage was identified 
in the right coronary artery and stented. You recovered well 
from the procedure and you are now ready for discharge home. 

As discussed you will be given an updated list of your 
medications including Plavix (for the stent) which you will 
continue for a year and Aspirin for life. These drugs should 
only be stopped by your cardiologist. If taken correctly these 
drugs decrease your risk for another heart attack and 
hospitalization. 

You will also be given a perscription for nitro tabs which are 
taken under the tongue ONLY in the event you are having chest 
pain. You should also call your cardiologist or 911 if you start 
to have chest pain. This will lower your blood pressure and 
should not be taken if you have taken any drug for erectile 
dysfunction in the past 48 hours as it can then cause a 
dangerous drop in blood pressure. 

You have been scheduled to see your providers including your new 
cardiologist. 

You will be referred to cardiac rehab after seen and cleared by 
your cardiologist as an outpatient.

All other activity restrictions per nursing. 

It was a pleasure taking care of you this admission. If you have 
any questions related to your hospitalization feel free to call 
the heartline which has been given to you with your discharge 
paperwork.

 
Followup Instructions:
___